US04863801
Example 3: Preparation of latex [ethylacrylate-methyl methacrylate-glycidylmethacrylate]
The procedure of Example 1 was repeated, a mixture of monomers containing 250 g of ethylacrylate, 150 g of methylmethacrylate, 100 g of glycidylmethacrylate was employed.

reactant | ethylacrylate | 250 g | C(C)OC(C=C)=O | C5H8O2
reactant | methylmethacrylate | 150 g | COC(C(=C)C)=O | C5H8O2
reactant | glycidylmethacrylate | 100 g | C(C1CO1)OC(C(=C)C)=O | C7H10O3
product | ethylacrylate methyl methacrylate glycidylmethacrylate | C(C)OC(C=C)=O.C(C(=C)C)(=O)OC.C(C1CO1)OC(C(=C)C)=O | InChI=1S/C7H10O3.2C5H8O2/c1-5(2)7(8)10-4-6-3-9-6;1-4(2)5(6)7-3;1-3-5(6)7-4-2/h6H,1,3-4H2,2H3;1H2,2-3H3;3H,1,4H2,2H3
